US08017792B2
Synthesis of 1-bromo-2-methoxy-4-methyl-5-(4-methylbenzyl)benzene
Br2 was added dropwise to an acetic acid (35 mL) solution of 4-methoxy-2-methyl-1-(4-methylbenzyl)benzene while cooled on ice. The reaction mixture was stirred at 110° C. for two hours. After the reaction mixture was added with water while cooled on ice and extracted with ethyl acetate, the organic phase was washed with a saturated sodium bicarbonate aqueous solution and brine and dried with anhydrous magnesium sulfate. After the desiccant was filtered off, the residue obtained by evaporating the solvent under reduced pressure was purified by silica gel column chromatography (hexane:ethyl acetate=15:1) to obtain a yellow oily title compound (4.21 g, 80%).

reactant | Br2 | BrBr | Br2
reactant | acetic acid | 35 mL | C(C)(=O)O | C2H4O2
reactant | 4-methoxy-2-methyl-1-(4-methylbenzyl)benzene | COC1=CC(=C(C=C1)CC1=CC=C(C=C1)C)C | C16H18O
solvent | water | O | H2O
product | 1-bromo-2-methoxy-4-methyl-5-(4-methylbenzyl)benzene | 4.21 g, 80% | BrC1=C(C=C(C(=C1)CC1=CC=C(C=C1)C)C)OC | C16H17BrO
